US04521428
A suspension of 11.3 g of p-nitrophenyl 3-pyridylacetate and 10 g of 4-(3-trifluoromethylphenyl)-1,2,3,6-tetrahydropyridine in 150 ml of ethanol is stirred 1 hour at room temperature, then concentrated under reduced pressure. The residue is dissolved in diethyl ether, the solution is washed with water, then with sodium hydroxide and again with water, dried on anhydrous sodium sulfate and concentrated. Thus, 1-(3-pyridylacetyl)-4-(3-trifluoromethylphenyl)-1,2,3,6-tetrahydropyridine (8 g) is obtained as an oil which is used for the subsequent reaction.

reactant | p-nitrophenyl 3-pyridylacetate | 11.3 g | N1=CC(=CC=C1)CC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C13H10N2O4
reactant | 4-(3-trifluoromethylphenyl)-1,2,3,6-tetrahydropyridine | 10 g | FC(C=1C=C(C=CC1)C=1CCNCC1)(F)F | C12H12F3N
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 1-(3-pyridylacetyl)-4-(3-trifluoromethylphenyl)-1,2,3,6-tetrahydropyridine | 8 g | N1=CC(=CC=C1)CC(=O)N1CCC(=CC1)C1=CC(=CC=C1)C(F)(F)F | C19H17F3N2O
